US08748624B2
STEP A: methyl 5-(5-fluoro-2-formylphenyl)picolinate
2-bromo-4-fluorobenzaldehyde (800 mg, 3.9 mmol), methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinate (1.2 g, 4.7 mmol), Pd(dppf)Cl2 (433 mg, 0.6 mmol), and K2CO3 (1.1 g, 7.9 mmol) were dissolved in 1,4-dioxane (40 mL) and water (10 mL) and the resulting mixture was heated to 65° C. After 1.5 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | 2-bromo-4-fluorobenzaldehyde | 3.9 mmol, 800 mg | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinate | 4.7 mmol, 1.2 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)OC)C | C13H18BNO4
reactant | K2CO3 | 7.9 mmol, 1.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 mL | O | H2O
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.6 mmol, 433 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 5-(5-fluoro-2-formylphenyl)picolinate | FC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)OC)C=O | C14H10FNO3
